** sch_path: sim/output-voltage-tc/testbench/tb_vref_tc.sch
**.subckt tb_vref_tc
V1 VDD 0 'vsup'
.save i(v1)
XBG VREF GDRV VDD 0 bandgap_core
**** begin user architecture code


* DC-solver seed, not a forced solution: see the header note. Without it the
* solver can settle on the core's degenerate zero-current state, which is
* what issue #10's startup circuit exists to prevent in silicon.
.nodeset v(vref)=1.2 v(gdrv)=2.2


**** end user architecture code
**.ends

* expanding   symbol:  design/bandgap_core.sym # of pins=4
** sym_path: design/bandgap_core.sym
** sch_path: design/bandgap_core.sch
.subckt bandgap_core VOUT GDRV VDD VSS
*.opin VOUT
*.iopin GDRV
*.iopin VDD
*.iopin VSS
**** begin user architecture code


* ---- Kuijk core parameters (issue #8) ----
* PNP emitter-area ratio N is built ONLY from paralleled unit devices:
*   N = (n_pnp_ptat * 11.56 um2) / (n_pnp_ctat * 0.4624 um2)
* Keep both counts equal to hold the pair's measured dVBE while lowering the
* per-unit current and sigma(dVBE); raise n_pnp_ptat alone for more PTAT.
.param n_pnp_ctat=8
.param n_pnp_ptat=8
* res_high_po unit segment: W = r_w um, L = r_lseg um (R ~ 380 + 325*L ohm).
* That 380 ohm head is per DEVICE, and the routed array draws every unit as
* its own separately-contacted device -- so it is paid per unit segment, not
* once per leg. Measured (tt/27 degC, sim/res-array-resize/): 2003.84 ohm per
* r_lseg unit, 704.53 ohm per r_lseg_trim unit.
.param r_w=1
.param r_lseg=5
* Segment counts, in UNIT SEGMENTS of the routed array (issue #99 / DR-003).
* Each divider leg is n unit res_high_po instances IN SERIES, so its total
* resistance is n*(rhead + rbody(unit)), not one device drawn at n*r_lseg --
* the routed layout contacts every internal unit boundary and therefore pays
* the model card's per-instance rhead term n times (real-SPICE evidence in
* sim/res-array-head-resistance/, ratified by DR-003; this cell models it
* via design/res_high_po_series.sym). K = R2/R1 is therefore NOT
* (380 + 325*r_lseg*n_r2)/(380 + 325*r_lseg*n_r1); it is
*   K = (n_r2_coarse*u5 + n_r2_fine_used*u1) / (n_r1*u5)
* with u5 / u1 the measured per-unit values above.
* n_r1=6 / n_r2=42 is issue #99's re-derivation against THOSE values: the
* integer pair that lands VOUT(27 degC) closest to 1.200 V (1.19934 V at
* tt/3.30 V; R1 = 12,023.05 ohm, R2A = R2B = 90,236.6 ohm, K = 7.5053) while
* holding the branch current at 5.194 uA, within 2.0% of the 5.3 uA
* operating point every other block in this design (PNP ideality #4/#35, amp
* offset budget #9, quiescent current #15) was characterized at. See the
* header's Sizing rationale and sim/res-array-resize/ for the derivation
* table and the full 15-point PVT verification.
* The previous n_r1=7 / n_r2=54 pair was sized against a SINGLE-device model
* of each leg; carried onto the real array it reads K = 8.1474 (+8.7%) and
* VOUT(27 degC) ~ 1.233 V, outside the draft +/-1% window at every corner
* checked, with hot-corner regulation collapse at ff/2.97 V and fs/2.97 V
* (DR-003). It is not restored by any change here.
.param n_r1=6
.param n_r2=42
* Routed-array decomposition of an R2 leg (layout/bin/gen_bandgap_routed.py's
* res_r2 + res_trim blocks, issue #91's coarse/fine split): the leg is
* n_r2_coarse units of r_lseg um followed by the DR-002 trim ladder's
* n_r2_fine units of r_lseg_trim um, and trim code n_r2_trim (<= 0) taps out
* |n_r2_trim| of the fine units. Total drawn length is therefore still
* r_lseg*n_r2 + r_lseg_trim*n_r2_trim, exactly as before; what changed is
* that the instance COUNT is now modelled, not just the length. n_r2_fine
* stays at the 20 units the layout already draws, so DR-002's certified
* 0..-16 code range keeps the same 4 units of drawn margin. The two derived
* counts are declared at the END of this block, after the trim params they
* depend on -- SPICE resolves .param lines in textual order.
.param n_r2_fine=20
* PMOS mirror multiplicities (unit device W=8u L=2u)
.param m_out=2
.param m_ampbias=2
* ---- Trim network (issue #13), DOWNWARD ONLY -- see DR-002 ----
* Ladder-tap length added to R2A/R2B equally (metal option, no switches).
* n_r2_trim: valid range 0..-16 only. r_lseg_trim: 1 um/code. Each code taps
* out one separately-contacted fine unit per leg, i.e. 704.53 ohm (not the
* 325 ohm the single-device model implied), so the step is ~3.7 mV/code and
* the certified 0..-16 range spans ~58 mV -- issue #99 re-ran DR-002's own
* corner set against the resized baseline and found the range still covers
* the 15.62 mV worst-case 3-sigma spread it was sized for, with ~3.7x margin
* instead of ~1.7x. See sim/res-array-resize/ Phase 3 and DR-003's closure.
* Positive codes are REJECTED: this is the same R2/R1 ratio issue #46 found
* causes ff/2.97V, fs/2.97V hot-corner (>~123C) operating-point collapse at
* even a +5 um increase (n_r2=55). sim/trim-range-monotonicity/ reconfirms
* it for trim and finds codes +1/+2 ALSO collapse (VOUT -> ~2.8V) while +3/
* +4 happen not to -- non-monotonic-in-code, i.e. no positive code is a
* certified-safe point, not a safe zone at +3/+4. Only downward (R2
* decrease) moves away from that edge; confirmed monotonic, collapse-free
* to -16 across corners. See DR-002 and the sim record for the full case.
.param n_r2_trim=0
.param r_lseg_trim=1
* Derived unit counts (must follow n_r2_trim / r_lseg_trim above -- SPICE
* resolves .param in textual order). n_r2_coarse is the res_r2 block's unit
* count per leg; n_r2_fine_used is how many of the res_trim ladder's fine
* units are still in circuit at the selected trim code.
.param n_r2_coarse='n_r2-n_r2_fine*r_lseg_trim/r_lseg'
.param n_r2_fine_used='n_r2_fine+n_r2_trim'


**** end user architecture code
XMPOUT VOUT GDRV VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=2 W=8 nf=1 ad=2.32 as=2.32 pd=16.58 ps=16.58 nrd=0.03625 nrs=0.03625 sa=0 sb=0
+ sd=0 mult='m_out' m='m_out'
XMPAMP TAIL GDRV VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=2 W=8 nf=1 ad=2.32 as=2.32 pd=16.58 ps=16.58 nrd=0.03625 nrs=0.03625 sa=0 sb=0
+ sd=0 mult='m_ampbias' m='m_ampbias'
XAMP VB VA GDRV TAIL VDD VSS error_amp
XR2AC TRIMA VOUT VSS sky130_fd_pr__res_high_po W='r_w' L='r_lseg' mult='n_r2_coarse' m='1/n_r2_coarse'
XR2AF VA TRIMA VSS sky130_fd_pr__res_high_po W='r_w' L='r_lseg_trim' mult='n_r2_fine_used' m='1/n_r2_fine_used'
XR2BC TRIMB VOUT VSS sky130_fd_pr__res_high_po W='r_w' L='r_lseg' mult='n_r2_coarse' m='1/n_r2_coarse'
XR2BF VB TRIMB VSS sky130_fd_pr__res_high_po W='r_w' L='r_lseg_trim' mult='n_r2_fine_used' m='1/n_r2_fine_used'
XQ1 VSS VSS VA sky130_fd_pr__pnp_05v5_W0p68L0p68 m='n_pnp_ctat' mult='n_pnp_ctat'
XR1 VBQ VB VSS sky130_fd_pr__res_high_po W='r_w' L='r_lseg' mult='n_r1' m='1/n_r1'
XQ2 VSS VSS VBQ sky130_fd_pr__pnp_05v5_W3p40L3p40 m='n_pnp_ptat' mult='n_pnp_ptat'
.ends


* expanding   symbol:  design/error_amp.sym # of pins=6
** sym_path: design/error_amp.sym
** sch_path: design/error_amp.sch
.subckt error_amp VINP VINN AOUT ITAIL VDD VSS
*.ipin VINP
*.ipin VINN
*.opin AOUT
*.iopin ITAIL
*.iopin VDD
*.iopin VSS
**** begin user architecture code


* ---- error-amp device multiplicities (issue #9 sizing) ----
* Unit geometry is fixed on the instances below; mult is the matching axis
* (sigma(Vth) scales as 1/sqrt(W*L*mult) in the PDK's own model).
* amp_m_in    : input-pair PMOS units   (W=20u L=10u each -> 3200 um^2 total)
* amp_m_nmirr : NMOS load/mirror units  (W=8u  L=20u each ->  640 um^2 total)
* amp_m_pmirr : PMOS mirror units       (W=6u  L=20u each ->  960 um^2 total)
* amp_m_cc    : MOS-capacitor units     (W=30u L=20u each -> 9600 um^2 total)
.param amp_m_in=16
.param amp_m_nmirr=4
.param amp_m_pmirr=8
.param amp_m_cc=16


**** end user architecture code
XMP1 D1 VINP ITAIL VDD sky130_fd_pr__pfet_g5v0d10v5 L=10 W=20 nf=1 ad=5.8 as=5.8 pd=40.58 ps=40.58 nrd=0.0145 nrs=0.0145 sa=0 sb=0 sd=0 mult='amp_m_in' m='amp_m_in'
XMP2 D2 VINN ITAIL VDD sky130_fd_pr__pfet_g5v0d10v5 L=10 W=20 nf=1 ad=5.8 as=5.8 pd=40.58 ps=40.58 nrd=0.0145 nrs=0.0145 sa=0 sb=0 sd=0 mult='amp_m_in' m='amp_m_in'
XMN1 D1 D1 VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=20 W=8 nf=1 ad=2.32 as=2.32 pd=16.58 ps=16.58 nrd=0.03625 nrs=0.03625 sa=0 sb=0 sd=0 mult='amp_m_nmirr' m='amp_m_nmirr'
XMN2 D2 D2 VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=20 W=8 nf=1 ad=2.32 as=2.32 pd=16.58 ps=16.58 nrd=0.03625 nrs=0.03625 sa=0 sb=0 sd=0 mult='amp_m_nmirr' m='amp_m_nmirr'
XMN3 AOUT D1 VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=20 W=8 nf=1 ad=2.32 as=2.32 pd=16.58 ps=16.58 nrd=0.03625 nrs=0.03625 sa=0 sb=0 sd=0 mult='amp_m_nmirr' m='amp_m_nmirr'
XMN4 PN D2 VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=20 W=8 nf=1 ad=2.32 as=2.32 pd=16.58 ps=16.58 nrd=0.03625 nrs=0.03625 sa=0 sb=0 sd=0 mult='amp_m_nmirr' m='amp_m_nmirr'
XMP4 AOUT PN VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=20 W=6 nf=1 ad=1.74 as=1.74 pd=12.58 ps=12.58 nrd=0.0483333333333333 nrs=0.0483333333333333 sa=0 sb=0 sd=0 mult='amp_m_pmirr' m='amp_m_pmirr'
XMP3 PN PN VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=20 W=6 nf=1 ad=1.74 as=1.74 pd=12.58 ps=12.58 nrd=0.0483333333333333 nrs=0.0483333333333333 sa=0 sb=0 sd=0 mult='amp_m_pmirr' m='amp_m_pmirr'
XMCC VDD AOUT VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=20 W=30 nf=1 ad=8.7 as=8.7 pd=60.58 ps=60.58 nrd=0.00966666666666667 nrs=0.00966666666666667 sa=0 sb=0 sd=0 mult='amp_m_cc' m='amp_m_cc'
.ends

.end
