** sch_path: sim/resistor-tc-single-length/testbench/tb_res_tc_single_length.sch
**.subckt tb_res_tc_single_length
XRXhL50a R_XH_L50_5U 0 0 sky130_fd_pr__res_xhigh_po W=1 L=50 mult=1 m=1
IXhL50a 0 R_XH_L50_5U 5u
XRXhL50b R_XH_L50_0P5U 0 0 sky130_fd_pr__res_xhigh_po W=1 L=50 mult=1 m=1
IXhL50b 0 R_XH_L50_0P5U 0.5u
XRXhL5 R_XH_L5_5U 0 0 sky130_fd_pr__res_xhigh_po W=1 L=5 mult=1 m=1
IXhL5 0 R_XH_L5_5U 5u
XRHighL50 R_HIGH_L50_5U 0 0 sky130_fd_pr__res_high_po W=1 L=50 mult=1 m=1
IHighL50 0 R_HIGH_L50_5U 5u
**** begin user architecture code


* --- simulator-mechanism probe: ideal resistors, one shared .model card ---
* Same tc1/tc2/tnom on all three; they differ only in how r= is written.
* Each is biased by an ideal 1uA source so R = V/1uA reads out directly.
Rtclit TC_LIT 0 tcprobe_r r=1000
Itclit 0 TC_LIT 1u
Rtcexpr TC_EXPR 0 tcprobe_r r='1000*1.0'
Itcexpr 0 TC_EXPR 1u
Rtcbeh TC_BEH 0 tcprobe_r r='1000*(1+1e-12*abs(v(TC_BEH,0)))'
Itcbeh 0 TC_BEH 1u
.model tcprobe_r r tc1=-1.47e-3 tc2=2.7e-6 tnom=25


**** end user architecture code
**.ends
.end
